US09163011B2
c) [(R)-4-(6-Amino-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-carbamic acid tert-butyl ester
To a solution of (R)-4-(6-amino-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (4.53 g, 17.41 mmol) in DCM (46 ml) was added DIPEA (4.26 ml, 24.37 mmol) and Boc2O (4.56 g, 20.89 mmol) and the mixture was warmed to 40° C. over night. The solvent was evaporated (at 34° C.) and the residue was purified by chromatography on silica gel (cyclohexane/[EtOAc/MeOH 95:5]4:1 to 1:1) to provide the title compound as colorless foam.

reactant | (R)-4-(6-amino-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | 17.41 mmol, 4.53 g | NC1=CC=C(C(=N1)[C@]1(N=C(OCC1(F)F)N)C)F | C10H11F3N4O
reactant | DIPEA | 24.37 mmol, 4.26 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 20.89 mmol, 4.56 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 46 ml | C(Cl)Cl | CH2Cl2
product | [(R)-4-(6-Amino-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1OCC([C@@](N1)(C)C1=NC(=CC=C1F)N)(F)F)=O | C15H19F3N4O3
